data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2513,2792,[CH3:14][CH-:15][N+:16]([CH3:17])=[C:18]([C:19]([CH3:20])=[O:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[CH3:1][O:2][C:3]1([CH3:4])[C:5]#[C:6][C:7]([Br:8])([Br:9])[CH2:10][CH2:11][CH2:12][CH2:13]1>>[CH3:1][O:2][C:3]1([CH3:4])[C:5]2=[C:6]([C:7]([Br:8])([Br:9])[CH2:10][CH2:11][CH2:12][CH2:13]1)[C:18]([C:19]([CH3:20])=[O:21])([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[N:16]([CH3:17])[CH:15]2[CH3:14],water,298.15,23.25970942909309,-27.4648999807288
4350,4971,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C-:11]([CH3:12])[N+:13]([CH3:14])=[C:15]([C:16]#[N:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:11]([C:9]([NH:8][CH3:7])=[O:10])([CH3:12])[N:13]([CH3:14])[C:15]1([C:16]#[N:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,29.024711007074607,-20.92064440581014
866,939,[CH3:13][O:14][C:15](=[O:16])[c:17]1[nH+:18][c-:19]([CH3:20])[c:21](=[O:22])[o:23]1.[CH3:1][O:2][C:3]1=[C:4]([C:5]([CH3:6])=[O:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][O:2][C:3]12[C:4]([C:5]([CH3:6])=[O:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:17]1([C:15]([O:14][CH3:13])=[O:16])[NH:18][C:19]2([CH3:20])[C:21](=[O:22])[O:23]1,water,298.15,30.332169987094463,6.496433604758887
3788,4338,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[N:5]#[C:6][C:7](=[O+:8][CH-:9][c:10]1[cH:11][cH:12][cH:13][cH:14][cH:15]1)[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[CH:9]([c:10]2[cH:11][cH:12][cH:13][cH:14][cH:15]2)[O:8][C:7]1([C:6]#[N:5])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1,water,298.15,12.188599755879686,-50.888554134735365
1390,1529,[CH3:15][CH:16]=[NH+:17][C-:18]([CH3:19])[C:20](=[O:21])[O:22][CH3:23].[CH3:1][C:2](=[O:3])[C:4]1([CH3:5])[C:6]#[C:7][C:8]([Cl:9])([Cl:10])[CH2:11][CH2:12][CH2:13][CH2:14]1>>[CH3:1][C:2](=[O:3])[C:4]1([CH3:5])[C:6]2=[C:7]([C:8]([Cl:9])([Cl:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[CH:16]([CH3:15])[NH:17][C:18]2([CH3:19])[C:20](=[O:21])[O:22][CH3:23],water,298.15,12.218660261851037,-28.87543134501028
2801,3112,[Br:1]/[C:2](=[C:3](/[Br:4])[c:5]1[cH:6][cH:7][cH:8][cH:9][cH:10]1)[c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1.[CH3:17][NH:18][C:19](=[O:20])[C:21]([C:22]#[N:23])=[NH+:24][C-:25]([C:26](=[O:27])[NH:28][CH3:29])[C:30](=[O:31])[O:32][CH3:33]>>[Br:1][C@@:2]1([c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)[C@@:3]([Br:4])([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[C:25]([C:26](=[O:27])[NH:28][CH3:29])([C:30](=[O:31])[O:32][CH3:33])[NH:24][C:21]1([C:19]([NH:18][CH3:17])=[O:20])[C:22]#[N:23],water,298.15,48.41831649728128,7.420962154701827
871,944,[CH3:15][N-:16][O+:17]=[CH:18][c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[NH:8][CH3:9])=[C:10]([C:11]#[N:12])[C:13]#[N:14]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]([C:11]#[N:12])([C:13]#[N:14])[N:16]([CH3:15])[O:17][CH:18]1[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,7.34020962733564,-27.26078693641396
302,328,[CH3:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2.[CH3:9][C:10](=[O:11])[N:12]=[NH+:13][N-:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[CH3:1][C:2]1=[CH:3][CH:4]2[CH:5]3[CH:6]([CH:7]1[O:8]2)[N:12]([C:10]([CH3:9])=[O:11])[NH:13][N:14]3[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,24.39320379307704,-27.242355872479443
229,249,[CH3:9][C:10](=[O:11])[N-:12][N+:13]#[C:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.[CH:1]#[C:2][c:3]1[cH:4][cH:5][cH:6][cH:7][cH:8]1>>[cH:1]1[c:2](-[c:3]2[cH:4][cH:5][cH:6][cH:7][cH:8]2)[n:12]([C:10]([CH3:9])=[O:11])[n:13][c:14]1-[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,20.832780274210705,-69.46364333609522
3199,3612,[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9].[CH:10]#[N+:11][N-:12][C:13](=[O:14])[O:15][CH3:16]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[N:12]([C:13](=[O:14])[O:15][CH3:16])[N:11]=[CH:10]1,water,298.15,19.53020047382501,-33.94023017216407
3728,4256,[CH3:9][NH:10][C:11](=[O:12])[C-:13]([C:14]#[N:15])[N+:16]#[C:17][C:18]([CH3:19])=[O:20].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:13]([C:11]([NH:10][CH3:9])=[O:12])([C:14]#[N:15])[N:16]=[C:17]1[C:18]([CH3:19])=[O:20],water,298.15,16.184840649460927,-37.24170740971242
1155,1256,[CH3:1][C:2]1([F:3])[C:4]#[C:5][C:6]([Cl:7])([Cl:8])[CH2:9][CH2:10][CH2:11][CH2:12]1.[N:13]#[C:14][CH:15]=[NH+:16][CH-:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH3:1][C:2]1([F:3])[C:4]2=[C:5]([C:6]([Cl:7])([Cl:8])[CH2:9][CH2:10][CH2:11][CH2:12]1)[CH:15]([C:14]#[N:13])[NH:16][CH:17]2[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,14.435620763626297,-49.45058603519296
